US07211335B2
Synthesis of 2-(2-{2-[4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-phenyl]-vinyl}-6-phenyl-pyran-4-ylidene)-malononitrile
As shown in the following reaction 4, 0.4 g (1.7 mmol) of 2-(2-methyl-6phenyl-pyran-4-ylidene)-malononitrile and 0.55 g (1.7 mmol) of 4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-benzaldehyde} were added into 40 ml of ethanol, and 0.17 g (2.0 mmol) of piperidine was added thereto. The reaction solution was heated at 75° C. for 10 hours.

reactant | 2-(2-methyl-6phenyl-pyran-4-ylidene)-malononitrile | 1.7 mmol, 0.4 g | CC=1OC(=CC(C1)=C(C#N)C#N)C1=CC=CC=C1 | C15H10N2O
reactant | 4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-benzaldehyde | 1.7 mmol, 0.55 g | C1(=CC=CC=C1)C1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C22H18N2O
reactant | piperidine | 2.0 mmol, 0.17 g | N1CCCCC1 | C5H11N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(2-{2-[4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-phenyl]-vinyl}-6-phenyl-pyran-4-ylidene)-malononitrile | C1(=CC=CC=C1)C1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)C=CC=1OC(=CC(C1)=C(C#N)C#N)C1=CC=CC=C1 | C37H26N4O
